US08242124B2
Preparation of 4-methoxy-N-methyl-3-(2-oxo-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide, Compound 5
To a stainless steel pressure vessel containing 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione (0.2 g, 0.407 mmol) was added 1,4-dioxane (5 mL), water (0.037 mL, 2.035 mmol), tetrakis(triphenylphosphine)palladium(0) (0.071 g, 0.061 mmol), triethylamine (0.567 mL, 4.07 mmol), and methylamine (2M in THF) (2.035 mL, 4.07 mmol). The vessel was sealed and purged with N2 3 times. The vessel was filled with carbon monoxide to 50 psi, and purged 2 times, then finally was filled to 80 psi of carbon monoxide. The vessel was heated to 80° C. for 16 h then was cooled to rt. The mixture was transferred to a rb flask and the solvent was removed under reduced pressure. The residue was dissolved in DMF and was passed through a plug of CELITE® to remove the solids. The DMF solution was purified by prep HPLC. The fractions containing the expected product were concentrated under reduced pressure. The residue was dissolved in dichloromethane and was partitioned with aq. sat. NaHCO3. The organic layer was collected, and dried with MgSO4. The drying agent was removed by filtration and the organic solution was concentrated under reduced pressure. The residue was purified by BIOTAGE® flash chromatography using a 0-5% MeOH in dichloromethane gradient using a BIOTAGE® flash chromatography. The expected product, 4-methoxy-N-methyl-3-(2-oxo-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide (0.065 g, 0.133 mmol, 32.7% yield), was isolated as an off-white solid. LC/MS: m/z 470.24 (M+H)+, 1.582 min (method 1). 1H NMR (500 MHz, DMSO-d6) δ ppm 11.13 (br. s., 1H) 8.60-8.77 (m, 1H) 8.14-8.26 (m, 1H) 7.70-7.94 (m, 3H) 7.02-7.47 (m, 5H) 4.73-5.01 (m, 2H) 3.88-3.97 (m, 3H) 3.66-3.88 (m, 2H) 2.92-3.11 (m, 5H).

reactant | 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione | 0.407 mmol, 0.2 g | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CC1=CC=CC(=C1CC2)C2=NC=CC=C2)=O)OC | C24H19BrN4O3
reactant | water | 2.035 mmol, 0.037 mL | O | H2O
reactant | triethylamine | 4.07 mmol, 0.567 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine | 4.07 mmol, 2M, 2.035 mL | CN | CH5N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.061 mmol, 0.071 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-methoxy-N-methyl-3-(2-oxo-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide | 0.133 mmol, 0.065 g, 32.7% yield | COC1=C2C(=C(N=C1)C(=O)NC)NC=C2C(C(N2CC1=CC=CC(=C1CC2)C2=NC=CC=C2)=O)=O | C26H23N5O4
